US06103910
a) (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(4-trifluoromethyl-benzyl)-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
A solution of 1.0 g (4.44 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester and 0.32 ml (2.22 mmol) para-trifluoromethylbenzylamine in 25 ml acetonitrile was stirred for 16 h at 80° C. Concentration in vacuo and flash chromatography (gradient: 0-10% MeOH in EtOAc) afforded 480 mg (31%) of the title compound as a light brown oil.

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester | 4.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C12H19NO3
reactant | para-trifluoromethylbenzylamine | 2.22 mmol, 0.32 ml | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(4-trifluoromethyl-benzyl)-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 480 mg, 31% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CCN(CC1=CC=C(C=C1)C(F)(F)F)CCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C32H46F3N3O6
